US07482462B2
A solution of 2 g of 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester, 1.2 ml of cyano-acetic acid methyl ester, 130 μl of piperidine and 38 mg of β-alanine in 4 ml of DMF is stirred at 70° C. for 48 hours, the mixture obtained is diluted with EtAc, washed with H2O and brine, the organic layer obtained is dried, solvent is removed in vacuo and the residue obtained is subjected to chromatography on silica gel. 3-(cyano-methoxycarbonyl-methylene)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester is obtained in the form of an oil. 13C-NMR: 174.13, 162.27, 153.68, 115.37, 107.45, 80.70, 53.92, 53.08, 28.81.

reactant | 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
reactant | cyano-acetic acid methyl ester | 1.2 ml | COC(CC#N)=O | C4H5NO2
reactant | piperidine | 130 μl | N1CCCCC1 | C5H11N
reactant | β-alanine | 38 mg | NCCC(=O)O | C3H7NO2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-(cyano-methoxycarbonyl-methylene)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=C(C(=O)OC)C#N | C16H22N2O4
